Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache, lightheadedness 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is an ___ year old right-handed woman with a remote history
of breast cancer s/p ? lymph node resection and on tamoxifen for
___ years, uterine cancer not otherwise specified and reportedly
only treated symptomatically, ? basal cell carcinoma of skin s/p
excision, and hypertension who initially presented to OSH after
feeling off for several days and falling on the floor without
head strike. She was ultimately found to have left temporal IPH
and transferred to ___ for further workup where she was
admitted to Neurosurgery out of concern for possible underlying
mass. Neurology was consulted for transfer of patient care, as
there was low suspicion for underlying mass by neurosurgical
team. 

History obtained on chart review and with supplementation by
patient's children at bedside, as patient was unable to produce
comprehensive speech output on exam.

Per review, patient was in her usual state of health leading up
to ___. On ___, she reportedly drove to church. On her way
back from Church, she felt "off" and thought her car may have
been veering. She drove home and decided to wear her "life line"
device in case she continued to feel off. Her gait was 
reportedly
normal. In the following days, she felt weaker and felt as if 
she
had trouble walking. She ended up falling on ___ and
couldn't get up. She pressed the button on her life line device
and the assisted facility sent assistance. She was initially
found talking and was reportedly able to provide a reliable
history, noting that she fell on her stomach and did not hit her
head. Further details unclear. At OSH, she subsequently 
developed
expressive aphasia resulting in ___ urgently and transfer to
___ for further management of ___.

Of note, patient was recently seen by her PCP on ___ and 
___
a clean ___ of health. No known changes to her blood pressure
medications occurred at this time. Her PCP is ___
___. 

Her blood pressures have been well-controlled throughout
admission and she has not been maintained on subq heparin. 
Repeat
imaging within 24 hrs showed stability of hemorrhage. 
 
Past Medical History:
hypertension
history of breast cancer s/p lymph node resection and possible
xRT on tamoxifen for ___ years and thought to be in remission ___
years ago)
history of uterine cancer ___ years ago) s/p biopsy and left
untreated             
 
Social History:
___
Family History:
Formerly worked in ___, has PhD in ___ education.
No tobacco exposure, <1 glass of wine a month, no IV drug
exposure.
Lives in independent assisted living facility, drives to church
by herself, manages her own finances, cooks her own meals, walks
without a cane                       
 
Physical Exam:
ON ADMISSION: 

Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: R>L ___    EOMs: Intact.
Neck: Supple.
Extrem: Warm and well-perfused.

Date and Time of evaluation: ___ 0350am

___ Coma Scale:
 [X]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [X]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [X]3 Inappropriate words
 [ ]4 Confused, disoriented
 [ ]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [X]6 Obeys commands

 _13_ Total

ICH Score:

GCS
     [ ]2     GCS ___
     [ ]1     GCS ___
     [X]0     GCS ___
     
ICH Volume 
     [ ]1     30 mL or Greater
     [X]0     Less than 30 mL

Intraventricular Hemorrhage
     [ ]1     Present
     [X]0     Absent

Infratentorial ICH
     [ ___     Yes
     [X]0     No

Age
     [X]1     ___ years old or greater
     [ ]0     Less than ___ years old

Total Score: ___1___

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Unable to appropriately assess due to expressive
aphasia. Unable to state name/place or date.
Language: Expressive aphasia with slight receptive aphasia.
Unable to name objects.

Cranial Nerves:
I: Not tested
II: Pupils R>L. Right 3mm, left 2mm, bilaterally reactive to
light.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift.

Sensation: Intact to light touch.

Coordination: normal on finger-nose-finger. 

Patient able to follow simple commands only. 

AT DISCHARGE: 
*************
PHYSICAL EXAMINATION:

24 HR Data (last updated ___ @ 1214)
    Temp: 97.9 (Tm 98.2), BP: 129/65 (129-145/60-70), HR: 71 
(71-78), RR: 16 (___), O2 sat: 96% (92-99), O2 delivery: RA  

GEN: This is a well-developed, well nourished woman who appears
stated age.
HEENT:  Unremarkable.
NECK: Neck movements are full range, non-tender.
HEART: WWP
RESP: no increased WOB, breathing comfortably on room air
NEURO: 
Mental status: Awake, alert, oriented to self, hospital, 
___ but not date. 

Non-fluent aphasia, responds appropriately to questions. 
Difficulty saying "no if ands or buts", able to say "it's a 
sunny day outside", naming improved, able to name watch, thumb, 
but unable to name ring and key.

Motor: 
Right upper: antigravity at shoulder. Wrist extension 4+, finger 
extension 4+, triceps 3 
Left upper: antigravity, spontaneous 
Right ___: IP antigravity, Quad 4+, Ham 4+, TA 1, ___ 3
Left ___: antigravity, spontaneous movement

Sensory: Intact to light touch throughout .

Gait: Deferred

 
Pertinent Results:
Please refer to OMR for relevant imaging and lab results 
___ 05:50AM BLOOD WBC-8.8 RBC-4.00 Hgb-12.7 Hct-37.4 MCV-94 
MCH-31.8 MCHC-34.0 RDW-11.9 RDWSD-40.8 Plt ___
___ 05:50AM BLOOD ___
___ 05:50AM BLOOD Glucose-100 UreaN-18 Creat-0.9 Na-140 
K-3.8 Cl-104 HCO3-23 AnGap-13
___ 05:50AM BLOOD %HbA1c-5.6 eAG-114
___ 05:50AM BLOOD Triglyc-125 HDL-44 CHOL/HD-4.6 
LDLcalc-135*
___ 05:50AM BLOOD TSH-1.9
 
Brief Hospital Course:
Ms. ___ is an ___ female with a history of breast 
cancer s/p lymph node dissection and tamoxifen ___ years, Basal 
cell carcinoma s/p excision, uterine cancer diagnosed on biopsy 
___ years ago without subsequent treatment, HTN who present in 
transfer from OSH for new onset mixed aphasia in the setting of 
CT confirmed left temporal hemorrhagic stroke. 

Acute medical/surgical issues addressed:
- Left temporal hemorrhagic stroke. Pt with mixed aphasia and 
R-sided paresis in upper and lower extremities. Blood pressures 
were optimized during hospitalization <150 mmHg. Recommend 
outpatient follow-up for blood pressure, cholesterol, and 
further follow-up MRIs, as detailed below. 

Chronic issues pertinent to admission:
- Hypertension. Continued losartan 100mg daily. Increased 
amlodipine to 10mg daily after HD2 due to SBPs >170 during the 
day, which resolved with hydralazine. Hydralazine IV was given 
for SBP>150 due to the patient's recent hemorrhagic stroke. 

Transitional issues:
- LDL cholesterol noted to be 135. Would appreciate primary care 
follow-up to determine need for cholesterol-lowering medication. 

- Please repeat MRI in ___ months to assess for possible 
underlying brain parenchymal lesion that may have contributed to 
hemorrhagic stroke
- Please follow-up blood pressures on amlodipine 10 and losartan 
100. Would recommend long-term SBP goal <130 for hemorrhagic 
stroke prophylaxis. 

AHA/ASA Core Measures for Intracerebral Hemorrhage 
1. Dysphagia screening before any PO intake? (X) Yes - () No. If 
no, reason why: 
2. DVT Prophylaxis administered? () Yes - (X) No. If no, why not 
(bleeding risk, hemorrhage, etc.) Held due to hemorrhagic 
stroke. Sequential compression devices were used and early 
ambulation was encouraged. 
3. Smoking cessation counseling given? () Yes - (X) No [reason 
(X) non-smoker - () unable to participate] 
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form?
(X) Yes - () No 
5. Assessment for rehabilitation and/or rehab services 
considered? (X) Yes - () No. If no, why not? (I.e. patient at 
baseline functional status) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Timolol Maleate 0.5% 1 DROP RIGHT EYE BID 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. amLODIPine 10 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Timolol Maleate 0.5% 1 DROP RIGHT EYE BID 
5. Aspirin 81 mg PO DAILY 
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left intraparenchymal hemorrhage 

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Mental Status: Confused - always.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ___ 
___ (Stroke) service because you developed difficulty 
walking at home and then developed difficulty speaking at an 
outside hospital. A CT scan at the outside hospital showed a 
hemorrhagic stroke (bleeding from a blood vessel in your brain). 
Repeat scans during this hospitalization showed that this did 
not change in size. You did not develop any new neurological 
symptoms while at the ___. You were evaluated by the physical 
therapy team and were felt to be safe to be discharged to rehab 
to continue your recovery. 

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- High blood pressure. Please continue taking your high blood 
pressure medications as prescribed. Your systolic blood pressure 
should be below 150 to help prevent complications of your stroke 
and help prevent future strokes. 
- Please continue levetiracetam (Keppra) 500mg twice per day 
until ___ (inclusive). This medication helps decrease 
abnormal activity in the brain due to your recent stroke that 
can lead to seizures.  
- Please take your other medications as prescribed.  

Additionally, you were found to have high cholesterol (LDL 135). 
This can increase the risk of heart attacks and strokes over the 
long term. Please follow-up with your primary doctor to 
determine if starting a medication to lower your cholesterol (a 
statin) might be helpful for your overall health goals. 

Please follow up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___